US09416138B2
3,4-Dihydro-2H-1,4-benzoxazine-2-carbonitrile
Combine 2-chloro-2-propenenitrile (3.0 g, 34.3 mmol), 2-aminophenol (3.27 g, 29.96 mmol), acetone (50 mL), and potassium chloride (5 g, 36.18 mmol). Stir the mixture at ambient temperature for 16 hours. Filter the mixture and wash the filter cake with EtOAc. Concentrate the filtrate under reduced pressure to give a residue. Purify via flash column chromatography using a gradient of 1-50% EtOAc in petroleum ether to elute. Combine the product fractions and remove solvents under reduced pressure to provide the title compound (1.5 g, 21.6%). MS (m/z): 161 (M+1).

reactant | 2-chloro-2-propenenitrile | 34.3 mmol, 3.0 g | ClC(C#N)=C | C3H2ClN
reactant | 2-aminophenol | 29.96 mmol, 3.27 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | potassium chloride | 36.18 mmol, 5 g | [Cl-].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 3,4-Dihydro-2H-1,4-benzoxazine-2-carbonitrile | 1.5 g, 21.6% | O1C(CNC2=C1C=CC=C2)C#N | C9H8N2O
